US07547699B2
1-((5R,8aR)-5-Methyl-3,5,6,8,8a,9-hexahydro-1H-2-oxa-4,4b,7-triaza-cyclopenta[b] fluoren-7-yl)-ethanone
To a solution of 0.33 (5R,8aR)-5-Methyl-1,3,5,6,7,8,8a,9-octahydro-2-oxa-4,4b,7-triaza-cyclopenta[b]fluorene dihydrogenphosphate in 4 ml water was added a solution of 1.3 ml acetic acid anhydride in 4 ml dichloromethane and the pH of the mixture was adjusted to 12.00 by addition of 1N aqueous sodium hydroxide. The mixture was stirred at room temperature for 15 minutes. The phases were separated and the organic phase was washed with 10% aqueous citric acid, saturated aqueous sodium bicarbonate and brine dried over sodium sulfate and evaporated to dryness to yield 0.25 g of the title compound as slightly yellow oil (MS: 274.1 (M+H+)).

reactant | (5R,8aR)-5-Methyl-1,3,5,6,7,8,8a,9-octahydro-2-oxa-4,4b,7-triaza-cyclopenta[b]fluorene dihydrogenphosphate | P(=O)(O)(O)O.C[C@H]1N2C=3N=C4C(=CC3C[C@@H]2CNC1)COC4
reactant | acetic acid anhydride | 1.3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | 4 ml | O | H2O
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 1-((5R,8aR)-5-Methyl-3,5,6,8,8a,9-hexahydro-1H-2-oxa-4,4b,7-triaza-cyclopenta[b] fluoren-7-yl)-ethanone | 0.25 g | C[C@H]1N2C=3N=C4C(=CC3C[C@@H]2CN(C1)C(C)=O)COC4 | C15H19N3O2
